US05541198
To 50 ml of ethanol were added 300 mg of 2-nitro-5-{3-[1-(2-methylphenyl)-2-imidazolylsulfinyl]-propoxy}cinnamic acid, 100 mg of 10% palladium carbon and 0.6 ml of triethylamine. Hydrogenation was conducted at a hydrogen pressure of 4 atm. at 60° C. for 3 hours. The reaction mixture was cooled to room temperature and filtered to remove the catalyst. To the filtrate was added 200 mg of 10% palladium carbon, and hydrogenation was conducted at a hydrogen pressure of 4 atm. at 60° C. for 6 hours. Ethanol was removed by distillation. The residue was made acidic with hydrochloric acid, followed by extraction with methylene chloride. The extract was washed with an aqueous solution saturated with sodium chloride, dried with anhydrous magnesium sulfate, and subjected to distillation to remove the solvent. The residue was purified by a silica gel column chromatography (eluant: dichloromethane/methanol=50/1→20/1). The crude crystals were recrystallized from ethanol-n-hexane to obtain 70 mg of 6-{3-[1-(2-methylphenyl)-2-imidazolylsulfinyl]propoxy}-3,4-dihydrocarbostyril.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | 2-nitro-5-{3-[1-(2-methylphenyl)-2-imidazolylsulfinyl]-propoxy}cinnamic acid | 300 mg | [N+](=O)([O-])C1=C(C=CC(=O)O)C=C(C=C1)OCCCS(=O)C=1N(C=CN1)C1=C(C=CC=C1)C | C22H21N3O6S
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 100 mg | [C].[Pd]
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | 6-{3-[1-(2-methylphenyl)-2-imidazolylsulfinyl]propoxy}-3,4-dihydrocarbostyril | 70 mg | CC1=C(C=CC=C1)N1C(=NC=C1)S(=O)CCCOC=1C=C2CCC(NC2=CC1)=O | C22H23N3O3S
